US09421205B2
(b) Ethyl 2-(4-oxo-2-thioxo-1,2,3,4-tetrahydropyrimidin-5-yl)acetate (I106)
Sodium ethoxide (6.105 g, 89.71 mmol) was added to absolute ethanol (150 mL) under an atmosphere of nitrogen followed by diethyl-2-formylsuccinate (1105) (crude, 16.5 g) in absolute ethanol (30 mL) and thiourea (6.829 g, 89.71 mmol). The reaction mixture was heated at reflux for 1 hour then cooled to room temperature at which stirring was continued for 16 hours. The volatiles were evaporated under reduced pressure to give a brown oily solid. Cold aqueous acetic acid solution (15%; 120 mL) was added and the resulting mixture was sonicated and then stirred at 0° C. until all the residue was in suspension. The resulting precipitate was collected by filtration. The filter cake was washed with water (100 mL) and dried to give the title compound (I106) (6.31 g, 19% yield over 2 steps) as an off-white solid; 1H NMR (400 MHz, d6-DMSO) δ 7.44 (s, 1H), 4.05 (q, J=7.1 Hz, 2H), 3.28 (s, 2H), 1.17 (t, J=7.1 Hz, 3H). LCMS Method C: rt 2.92 min; m/z 213.0 [M−H]−.

reactant | Sodium ethoxide | 89.71 mmol, 6.105 g | [O-]CC.[Na+]
reactant | diethyl-2-formylsuccinate | 16.5 g | C(C)OC(C(CC(=O)OCC)C=O)=O | C9H14O5
reactant | thiourea | 89.71 mmol, 6.829 g | NC(=S)N | CH4N2S
reactant | acetic acid | 120 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | Ethyl 2-(4-oxo-2-thioxo-1,2,3,4-tetrahydropyrimidin-5-yl)acetate | 19% yield | O=C1NC(NC=C1CC(=O)OCC)=S | C8H10N2O3S
